US05314918
A solution of 8-phenyloctanoic acid (19.8 mmol) in sieve dried tetrahydrofuran (5 ml) was reduced with diborane in tetrahydrofuran (30 ml, 29.1 mmol) at 0° C. for 4 hours to give 8-phenyloctanol. To an ice cold solution of the octanol (ca. 19.8 mmol) and carbon tetrabromide (21.98 mmol) in methylene chloride (50 ml) was added triphenylphosphine (22.30 mmol) in methylene chloride (50 ml) and the resulting solution was stirred for 2.5 hours. The volatiles were evaporated and the residue was taken up in ether (100 ml), cooled in ice, and filtered. The filtrate was evaporated and distilled to afford 8-phenyloctyl bromide as an oil.

reactant | 8-phenyloctanoic acid | 19.8 mmol | C1(=CC=CC=C1)CCCCCCCC(=O)O | C14H20O2
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 29.1 mmol, 30 ml | O1CCCC1 | C4H8O
product | 8-phenyloctanol | C1(=CC=CC=C1)CCCCCCCCO | C14H22O
